US04568687
N-[3-(1H-Imidazol-1-yl)propyl]cinnamamide
A mixture of 2.22 g. of trans-cinnamic acid, 2.43 g, of 1,1'-carbonyldiimidazole and 50 ml. of tetrahydrofuran was stirred for 2 hours, then 1.7 ml. of 1H-imidazole-1-propanamine was added. The reaction mixture was stirred for 18 hours, then 5 ml. of water was added, the mixture was heated for 30 minutes and then concentrated. Methylene chloride and 10 ml. of 1N sodium hydroxide were added and then layers were separated. The organic layer was washed with water, dried over magnesium sulfate and concentrated, giving the desired product as a viscous oil.

reactant | trans-cinnamic acid | C(\C=C\C1=CC=CC=C1)(=O)O | C9H8O2
reactant | 1,1'-carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | 1H-imidazole-1-propanamine | N1(C=NC=C1)CCCN | C6H11N3
solvent | water | O | H2O
product | N-[3-(1H-Imidazol-1-yl)propyl]cinnamamide | N1(C=NC=C1)CCCNC(C=CC1=CC=CC=C1)=O | C15H17N3O
